US04435404
Into 100 ml of ethanol were added 5 g of 6-{4-[N-(2-hydroxyethyl)-N-cyclohexylmethylaminocarbonyl]-2-butenyloxy}-3,4-dihydrocarbostyril and 1 g of 1% palladium-carbon. The mixture was catalytically hydrogenized under an atmospheric pressure at a room temperature for 5 hours. After the reaction was completed, the catalyst was removed by filtration and the filtrate was concentrated. The residue thus obtained was recrystallized from ethyl acetate-petraleum ether to obtain 4.2 g of 6-{4-[N-(2-hydroxyethyl)-N-cyclohexylmethylaminocarbonyl]butoxy}-3,4-dihydrocarbostyril as in the form of colorless plate-like crystals. Melting point: 123°-125° C.

reactant | 6-{4-[N-(2-hydroxyethyl)-N-cyclohexylmethylaminocarbonyl]-2-butenyloxy}-3,4-dihydrocarbostyril | 5 g | OCCN(C(=O)CC=CCOC=1C=C2CCC(NC2=CC1)=O)CC1CCCCC1 | C23H32N2O4
catalyst | palladium-carbon | 1 g | [C].[Pd]
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 6-{4-[N-(2-hydroxyethyl)-N-cyclohexylmethylaminocarbonyl]butoxy}-3,4-dihydrocarbostyril | 4.2 g | OCCN(C(=O)CCCCOC=1C=C2CCC(NC2=CC1)=O)CC1CCCCC1 | C23H34N2O4
